Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I made a joke that I was going to jump in front of a bus"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ year old male student at ___, 
presenting with bipolar disorder, who was brought into the ED by 
the ___ Police after his roommate 
reported that the patient made a suicidal statement over text 
message stating "I want to jump in front of a bus". 
.
Per Dr. ___ Evaluation on ___: "He states that 
he was "joking" and that he spoke like this because he has been 
more stressed out than usual lately. Within the past couple 
weeks, he met a female student who lives on the same floor of 
his dorm. "She's experienced so many of the same things that 
I've experienced, and I know that I can help her." Patient 
described a conversation he had with this person in which he 
felt profoundly connected to her and said "I've never felt like 
this before". He states that this person has been "talking to a 
___, I ___ know her 'boyfriend' I guess, but he's like 
controlling her now...he made her go to the RA". Five days ago, 
this person reported the patient to the dormitory RA and the 
campus police for "harassing her". Patient signed a "title IX 
form" and was told that he would be legally reprimanded in some 
way if he continued to talk to this student. When asked if he 
would need to continue to physically see this person, given that 
they live in the same dorm, the patient said "I sure hope so!".
.
Patient started his freshman year at ___ ___ weeks ago and says 
that he has been feeling more anxious during this time, though 
he feels it to be at a tolerable and appropriate level for 
someone starting college. He endorses racing thoughts, but says 
that "nobody hears them" because he uses "willpower" to keep 
himself calm. Similarly, he states that he has been feeling 
somewhat elevated in mood but has been "controlling it". He 
reports sleeping "6 to 8 hours" per night and say that he has 
been attending classes and keeping up with school work. He 
denies suicidal thoughts and denies depressed mood. He denies 
feelings of hopelessness or worthlessness. He denies auditory or 
visual hallucinations. Of note, patient reports that he has had 
a similar experience in the past with a classmate during his 
senior year of high school. He states that he was diagnosed with 
bipolar disorder around ___, his first psychiatric 
hospitalization. At that time, he reports he developed deep 
feelings of connection with a classmate and described his state 
of mind as "desperate". At that time, he experienced racing 
thoughts, irritable mood, anxiety, insomnia, and impulsivity. He 
states that he went to this student's house one night and yelled 
for her outside. Her family called the police and the patient 
was "restrained" physically by law enforcement and eventually 
admitted to an inpatient psychiatric unit.
.
COLLATERAL:
Source: Patient's mother, father, and step-mother. Information 
received in person, with the patient's permission. ___, father: 
___ ___, mother: ___ Patient's family report 
that he has been diagnosed with bipolar disorder in the ___ 
___. His first hospitalization was that ___ and was a 
voluntary admission at ___ for "anxiety". Some weeks after 
discharge, he began developing "paranoia", auditory 
hallucinations, "anger", and aggressive behavior. He has never 
harmed anyone else, but has harmed himself while punching a wall 
in a rage. He was hospitalized at ___ and there was 
diagnosed with bipolar disorder. He was discharged on lithium, 
risperidone, and Cogentin. Patient self-discontinued the 
Cogentin and developed parkinsonism which required 
re-hospitalization. After that, he started seeing his current 
psychiatrist Dr. ___ stopped risperidone and started 
olanzapine. Patient improved on this regimen, but rapidly gained 
weight on olanzapine (~20 lbs in one month) and was over-sedated 
on this med as well. In ___, in coordination with Dr. ___, 
___ weaned off of olanzapine and has now been on sertraline 
and lithium only since that time. He appeared to be doing quite 
well up until now. He was able to graduate high school and 
matriculate at ___. Parents are worried that he may 
have stopped taking his lithium.
.
Parents report a strong working relationship with the patient's 
psychiatrist, and would like to do everything they can to keep 
the patient out of the hospital. They do believe that he is 
speaking and behaving in a way now (relating to them with deep 
anger) that is similar to how he has behaved previously when he 
has become ill. They did not suspect that the patient was having 
any trouble with his health until tonight. He has no history of 
suicide attempts. He does not have a therapist now, but 
previously was seen by Dr. ___ in ___. Parents 
believe that risperidone was not a good medication choice for 
the patient, due to significant side effects, and ask that he 
not be placed on this medication again.
.
Source: ___, friend (___). Patient's roommate 
reported patient's suicidal statement "I might jump in front of 
a bus" to their dormitory RA, who then likely called campus 
police. Mr. ___ says that the patient sent him a "scary 
text" and then subsequently did not answer his phone, which made 
him worried. Roommate states that he has known the patient for a 
short period of time, but patient does have some friends from 
high school on campus. He states that the patient "seems to be 
looking for help" and that "I keep telling him to get help" for 
his mental health. To his knowledge, the patient is not 
receiving mental health care right now. Patient has been 
sleeping intermittently over the past two weeks.  He reports 
that the patient often seems anxious and will text him 
frequently. One time, he states his phone was turned off at the 
library and he missed some messages from the patient. Upon their 
next communication, the patient "yelled" at him and said that he 
was "lying" about why he didn't answer his phone. Roommate says 
that he feels the patient needs more support for his mental 
health; "I can't be there all the time to give him what he 
needs". He describes patient has having difficulty with 
ascertaining social cues."
.
On admission interview, patient states that he is currently 
being admitted for "a joke" that he had made regarding wanting 
to jump in front of a bus. He states that he usually makes jokes 
like this with his friends, but realized that his new roommate 
likely does not have a similar sense of humor and that "it was a 
bad joke, I get that". He currently denies having any suicidal 
thoughts and denies SI/intent or plan to harm himself. He denies 
feelings of hopelessness/helplessness, but did endorse feeling 
lonely and depressed regarding his recent preoccupation with a 
girl from his campus. He declined to discuss the situation 
further, but as aforementioned from Dr. ___, patient 
is romantically interested in another female student in his 
dormitory. He did not mention that his school reprimanded him 
for his actions given that the other student filed Title IX 
violation against him. He reports that he has never attempted 
suicide in the past, but has engaged in self injurious behavior 
(most recently 5 months ago patient cut himself). 
.
Currently patient states that he is sleeping ___ hours a night, 
though eh had trouble sleeping in the emergency department 
overnight. He states his appetite has been "spotty" but appears 
to be improving. He currently endorses having racing though and 
anxious ruminations, which have been predominantly associated 
with his romantic interest in another student on campus, but 
states that "its nothing I can't manage". He reports that he is 
also overwhelmed with the transition to college and with his 
relationship with his parents who he states are "abusive towards 
me... verbally, physically, and emotionally". Patient stated 
that while in the hospital, he "made a decision for [him]self, 
to stop listening to my family". Patient currently denies any 
recent change in energy level, mood, increasingly risky 
behavior, grandiosity, or decreased need for sleep. Throughout 
interview, patient appeared to be guarded, irritable, asked "is 
this really necessary" multiple times during interview and 
physical exam.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Past psychiatric history diagnosis of bipolar disorder 
established in ___, his first psychiatric 
hospitalization for "anxiety." At that time, he reports he 
developed deep feelings of connection with a classmate and 
described his state of mind as "desperate".  Some weeks after 
discharge, he began developing "paranoia", auditory 
hallucinations, "anger", and aggressive behavior. At that time, 
he experienced racing thoughts, irritable mood, anxiety, 
insomnia, and impulsivity. He states that he went to this 
student's house one night and yelled for her outside. Her family 
called the police and the patient was "restrained" physically by
law enforcement and eventually admitted to an inpatient 
psychiatric unit. He was hospitalized at ___. He was 
discharged on lithium, risperidone, and Cogentin. Patient self- 
dscontinued the Cogentin and developed parkinsonism which 
required re-hospitalization. After that, he started seeing his 
current psychiatrist Dr. ___ in ___ ___, 
who stopped risperidone and started olanzapine. Patient improved 
on this regimen, but rapidly gained weight on olanzapine (~20 
lbs in one month) and was over-sedated on med as well. In ___, 
in coordination with Dr. ___ weaned off of olanzapine 
and has now been on sertraline and lithium only since that time. 
Patient has a prior history of cutting (last episode 3 months 
ago (e.g. "I did it for attention. It didn't feel good, but I 
wanted people to know that I was struggling"), but not previous 
suicide attempts.  Prior therapist Dr. ___ in ___ (has not seen in many months but would be willing to see 
following discharge). 
.
PAST MEDICAL HISTORY: Denies.
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: Maternal grandfather had bipolar 
disorder.

 
Physical Exam:
EXAM: ___ Temp: 98.9 BP: 127/71 HR: 67 RR: 17 O2 sat:
100% 

General:  Awake, alert, in no acute distress. 
Cardiac: Regular rate and rhythm, normal S1 and S2 with no
murmurs, rubs, or gallops. 
Respiratory:   Clear to auscultation bilaterally. 
GI:   Normoactive bowel sounds. Nontender, nondistended in all 4
quadrants. 
Skin/Extremities: No rashes, lesions, edema, erythema noted. 


Neurological:  
 *station and gait: Not assessed.
 *tone and strength: Normal tone. Moves all four extremities
equally and spontaneously against gravity.
 *Cranial Nerves:   CN II-XII intact, PERRLA, no facial
assymetry, no palatal deviation.

Cognition: 
 Wakefulness/alertness: Awake/alert.
 *Attention: Intact to MOTYB.
 *Orientation: To self, ___, ___.
 *Memory: ___ registration and 5-minute recall.
 *Fund of knowledge: Able to name last 3 ___ presidents.
 Calculations: Quarters in $2.25 = "9".
 Abstraction: Watch/ruler = "measurement".
 *Speech: Tone flat. Somewhat increased rate. Volume, rhythm, 
and
amount normal.
 *Language: Fluent, native ___ speaker.
 
Mental Status:
 *Appearance: Age-appearing man sitting up at edge of stretcher
in NAD.
 Behavior: Makes intermittent intense eye contact, at times very
prolonged (silent for >30 seconds twice during interview, but 
did
not appear internally preoccupied). Guarded. Irritable at times. 

 *Mood and Affect: "Fine". Affect constricted, dysthymic at 
times
when discussing depressive symptoms.  
 *Thought process / *associations: Linear, goal-directed. No
loose associations. No tangentiality.
 *Thought Content: Denies SI/HI/AVH. Does not appear to be
responding to internal stimuli. States he does not feel paranoid
currently and notes feeling safe in hospital. 
 *Judgment and Insight: Impaired/Impaired.

 
Pertinent Results:
___ 02:10PM BLOOD WBC-5.5 Hgb-14.4 Hct-43.0 Plt ___
___ 06:29AM BLOOD Glucose-94 UreaN-10 Creat-1.1 Na-141 
K-4.6 Cl-102 HCO3-26 AnGap-13
___ 06:29AM BLOOD ALT-11 AST-13 AlkPhos-102 TotBili-0.5
___ 06:29AM BLOOD Lipase-19
___ 06:29AM BLOOD Calcium-9.8 Phos-4.9* Mg-2.1 Cholest-119
___ 06:29AM BLOOD Triglyc-63 HDL-41 CHOL/HD-2.9 LDLcalc-65
___:29AM BLOOD TSH-2.0
___ 08:56AM BLOOD Lithium-0.6
___ 02:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:   
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout his admission. Patient also signed a three-day notice 
which expired on ___. He was also placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.
.
2. PSYCHIATRIC:
Across interviews during admission, patient maintained that the 
text message that he sent to his friend was "blown out of 
proportion." Qualified that he and his roommate have not known 
each other very long, and he empathized with his roommate's 
concern (e.g. "He didn't know if I was serious or not"). 
Admitted to feeling down the past several days following a 
relative romantic rejection; recalled meeting a female student 
last week with whom he identified several things in common, 
specifically their similar mental health experiences. Although 
the patient was initially surprised when he received 
notification that the female student pursued a Title IX 
complaint, he stated, "I think it's because her boyfriend is 
really overbearing and emotionally abusive." Patient stated that 
he observed female student on the phone with her boyfriend 
during an argument. Regarding his intent to contact her in the 
future, stated, "I'm going to leave her alone. Sure, I'd like to 
be able to talk to her in the future, but it would be on her 
terms. I ___ want to make anything worse." Regarding suicidal 
statements expressed to his roommate, explained, ___, I was 
depressed for a few days after she pushed me ___, I had 
suicidal thoughts, but they weren't intense or lingering." 
Described that in the past, he has experienced persisting 
suicidal thoughts with imagery of how he would harm himself 
(e.g. planned on stabbing himself in the chest). However, denied 
recent suicidal thoughts as nearing this degree of intensity or 
intent. Added, "I have a lot to look forward to. I'm excited 
about school, meeting new people. I'm happy right now."  Prior 
to interaction with female student, denied any significant 
changes in mood or mentation; denied any disruption in sleep, 
appetite, energy, concentration, or capacity to care for 
himself. Denied any recent perceptual disturbances or psychotic 
symptoms. 
.
MSE notable for age appearing man, casually dressed, adequately 
___, in no acute distress. Calm, cooperative with interview; 
appropriate eye contact. Mood was "okay"; Affect was euthymic, 
stable, congruent. Thought process was linear without loosening. 
Thought content was absent for any delusional beliefs. Denied 
current perceptual disturbances; did not appear internally 
preoccupied. Denied current suicidal ideation or thoughts/urges 
to engage in self-harm or harm of others. Judgment and insight 
fair/good. Oriented to person, place, date, situation. Attentive 
to interview. Fund of knowledge in tact. Language fluent without 
aphasia. Speech regular rate, rhythm, volume and prosody.
.
Currently tolerating outpatient medication regimen; however, 
stated, "I ___ know why I'm taking the sertraline since it's 
such a low dose." Continued to identify lithium as efficacious 
and without side effects. Sertraline was discontinued; lithium 
900mg QHS was continued. Lithium level on  ___ was 0.6 
(unclear what most recent outpatient lithium level was). Patient 
stated that he missed "1 or 2 doses" at the beginning of school 
(unclear which days), but had otherwise been adherent. Patient 
instructed to continue taking lithium 900mg QHS following 
discharge, but also instructed to obtain follow-up lithium level 
on ___ at 10:00am. Instructed patient to report results to 
his outpatient psychiatrist who would determine if dose required 
adjustment. Of note, patient expressed his willingness to 
continue working with Dr. ___ voiced concern about 
resuming treatment with his previous therapist (___). 
Patient indicated that he would be willing to accept a referral 
to another outpatient therapist (see discharge instructions 
below)
.
3. SUBSTANCE USE DISORDERS: Patient was provided with counseling 
regarding the negative effects of cannabis use on symptoms of 
mental illness for individuals with bipolar disorder 
(specifically, increased risk of precipitating or worsening 
symptoms of psychosis). Patient also provided with education 
regarding the risks of alcohol consumption while prescribed 
lithium; specifically, patient educated about risks of 
dehydration with excess alcohol consumption, in addition to s/sx 
of lithium toxicity.
.
4. MEDICAL: Health maintenance labs as above. Patient also 
referred to HCA primary care provider. Patient provided with 
outpatient lab requisition order for lithium level to be drawn 
on ___ at 10:00AM; value to be reviewed with PCP ___ ___. 
If needed, dose to be adjusted by Dr. ___ prior to or at 
appointment scheduled for ___ (see below)
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in various groups and 
milieu therapy opportunities offered by the unit.  The patient 
attended these groups that focused on teaching patients various 
coping skills.  
.
COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient provided verbal permission for team to speak with his 
friend from grade school (___) who had has been in 
communication with patient regularly and was aware of this 
admission. Although Mr. ___ had not seen the patient in >2 
weeks, he denied any significant safety concern or change in 
patient's mood/behavior. Mr. ___ was aware of patient's acute 
decompensation in the ___ (e.g. "In the past he's been 
much worse. He wasn't sleeping. He was frankly psychotic"), but 
Mr. ___ contrasted his previous presentation with how patient 
has been recently. 
.
Treatment team also spoke w/ patient's psychiatrist, Dr. ___, 
___ indicated that he would be willing to continue working with 
him as an outpatient. Treatment team provided update regarding 
patient's current presentation and medication regimen.
.
Prior to discharge, patient provided verbal permission for this 
provider to speak with his parents. Patients parents verbalized 
initial concern about patient not providing permission to speak 
with them; however, they provided collateral information 
consistent with that obtained in the ED. While they noted that 
the patient has had a difficult year with symptom severity (e.g. 
requiring several admissions and medication trials due to 
mania/psychosis), both affirmed that he has not exhibited 
similar s/sx recently. Noted that he has been appropriately 
euthymic and engaged in reality based conversation without 
verbalizing any delusional thought content. Both parents are 
comfortable with discharge on ___.
.
Patient signed release of information for ___ 
and ___ to obtain discharge summaries 
from admissions in ___. By time of discharge, discharge summary 
from ___ received, but not ___ 
___. Information from ___ 
summarized below:

-Admitted from ___ for suicidal ideation. Per HPI, 
"Patient describes himself as having 'deep anxiety preventing 
[him] from sleeping.' Patient has difficulty articulating what 
kind of stressors have been going on...States that he can't 
describe any triggers...has a very good relationship with his 
parents but because of his level of disorganization right now is 
unable to provide any other information. Parents reported issues 
with bulling in his school, but he had his firs psychotic break 
last month and was entirely non-functional and delusions. He was 
hospitalized. He did have some improvement but then not sleeping 
led to another decompensation and over the past couple of days 
he again stopped thinking clearly, not eating, not taking care 
of himself, acting very strangely. Patient did start to voice 
suicidal ideation so his parents brought him to the ED." Patient 
had been hospitalized twice in ___ for 
depression/anxiety and in ___ for psychosis (___ 
___). He was diagnosed with bipolar disorder vs schizophrenia. 
Medication regimen on admission was Lithium 450mg BID and 
risperidone 2mg BID. During admission risperidone was d/c'd in 
favor of olanzapine; patient reported improvement in mood and 
subjective movement-related SE's from risperidone. Discharge 
diagnosis was mood disorder unspecified. Discharge meds were 
lithium 450mg BID and olanzapine 5mg QHS.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
expressed suicidal ideation. His static factors noted at that 
time include history of previous hospitalizations, prior 
self-injury, Caucasian race, age, and male gender. His 
modifiable risk factors were identified as current substance use 
and lack of outpatient therapist; these were addressed by 
providing counseling regarding negative effects of substance use 
on mental health as above, and referring patient to a new 
therapist. Patient possesses several protective factors, 
including his lack of previous suicide attempts, current absence 
of manic or psychotic symptoms, medication adherence, strong 
social supports (parents local), future oriented thought 
content, euthymic mood, and absent suicidal ideation. Overall at 
time of discharge, patient was not at an acutely elevated risk 
of self-harm to self or others due to decompensated psychiatric 
illness such that he required inpatient level of care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 25 mg PO DAILY 
2. Lithium Carbonate CR (Eskalith) 900 mg PO DAILY 

 
Discharge Medications:
1.  Lithium Carbonate CR (Eskalith) 900 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar I Disorder
Cannabis Use Disorder
Alcohol Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___